US04145419
5 g (0.023 mole) of 4H-imidazo-[2,1-c][1,4]-benzoxazine-2-carboxylic acid were suspended in 15 ml of thionyl chloride and the mixture obtained was refluxed for two hours during which time the solid material completely dissolved. Excess thionyl chloride was removed by azeotroping with benzene on a rotary evaporator and the product was triturated with ether, filtered off and dried to obtain 4.5 g (83% yield of 4H-imidazo-[2,1-c][1,4]-benzoxazine-2-carbonyl chloride with a melting point of 240° C. (decomp).

reactant | 4H-imidazo-[2,1-c][1,4]-benzoxazine-2-carboxylic acid | 0.023 mole, 5 g | C1=C(N=C2COC3=C(N21)C=CC=C3)C(=O)O | C11H8N2O3
reactant | thionyl chloride | 15 ml | S(=O)(Cl)Cl | Cl2OS
product | 4H-imidazo-[2,1-c][1,4]-benzoxazine-2-carbonyl chloride | 83% yield | C1=C(N=C2COC3=C(N21)C=CC=C3)C(=O)Cl | C11H7ClN2O2
